US06310211B1
N-(cyanomethyl-8-hydroxy-7-quinolinecarboxamide
8-hydroxyquinoline-7-carboxylic acid (0.51 g), aminoacetonitrile.HCl (0.27 g), and triethylamine (0.38 mL) are dissolved in 10 mL dimethylformamide. EDC.HCl (0.54 g) and HOBt.H2O (0.38 g) are added and the reaction is stirred at room temperature for 2 days. The reaction is poured into 50 mL ice/H2O and stirred.

reactant | 8-hydroxyquinoline-7-carboxylic acid | 0.51 g | OC=1C(=CC=C2C=CC=NC12)C(=O)O | C10H7NO3
reactant | aminoacetonitrile | NCC#N | C2H4N2
reactant | HCl | 0.27 g | Cl | ClH
reactant | EDC.HCl | 0.54 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | H2O | 0.38 g | O | H2O
solvent | triethylamine | 0.38 mL | C(C)N(CC)CC | C6H15N
product | cyanomethyl-8-hydroxy-7-quinolinecarboxamide | C(#N)CC1=NC2=C(C(=CC=C2C=C1)C(=O)N)O | C12H9N3O2
